US04546099
N-Hydroxymethyl-3-(2-chlorophenyl)-4-cyanopyrrole
60.8 g of 3-(2-chlorophenyl)-4-cyanopyrrole, 9.9 g of paraformaldehyde and 0.8 g of triethylamine are thoroughly mixed and and the mixture is then heated, with stirring, at a bath temperature of 90° C. The resultant melt is cooled to room temperature after 11/4 hours, when it congeals to a glass-like solid. Recrystallisation from toluene yields the title compound in the form of brownish crystals of m.p. 94°-97° C.

reactant | 3-(2-chlorophenyl)-4-cyanopyrrole | 60.8 g | ClC1=C(C=CC=C1)C1=CNC=C1C#N | C11H7ClN2
reactant | paraformaldehyde | 9.9 g | C=O | CH2O
solvent | triethylamine | 0.8 g | C(C)N(CC)CC | C6H15N
product | N-Hydroxymethyl-3-(2-chlorophenyl)-4-cyanopyrrole | OCN1C=C(C(=C1)C#N)C1=C(C=CC=C1)Cl | C12H9ClN2O
